US06518268B1
A 2.5 mol/L sodium hydroxide aqueous solution (1.2 mL, 3.1 mmol) and tetrabutylammonium bromide (0.012 g, 0.031 mmol) were added to 3-chlorobenzenethiol (0.11 g, 0.73 mmol), followed by stirring at 25° C. for 10 minutes. A toluene (1.2 mL) solution of 2-fluoro-5-nitrobenzaldehyde (0.12 g, 0.73 mmol) was added to the reaction liquid, followed by stirring at 110° C. for 1.5 hours. After the conventional post-reaction treatment, the residue was purified by silica gel chromatography (eluted by chloroform) to give 2-[(3-chlorophenyl)thio]-5-nitrobenzaldehyde (72 mg, 34%).

reactant | sodium hydroxide | 3.1 mmol, 2.5 mol/L, 1.2 mL | [OH-].[Na+]
reactant | 3-chlorobenzenethiol | 0.73 mmol, 0.11 g | ClC=1C=C(C=CC1)S | C6H5ClS
reactant | 2-fluoro-5-nitrobenzaldehyde | 0.73 mmol, 0.12 g | FC1=C(C=O)C=C(C=C1)[N+](=O)[O-] | C7H4FNO3
catalyst | tetrabutylammonium bromide | 0.031 mmol, 0.012 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 1.2 mL | C1(=CC=CC=C1)C | C7H8
product | 2-[(3-chlorophenyl)thio]-5-nitrobenzaldehyde | 72 mg, 34% | ClC=1C=C(C=CC1)SC1=C(C=O)C=C(C=C1)[N+](=O)[O-] | C13H8ClNO3S
